* NGSPICE file created from phase_detector.ext - technology: sky130A

.subckt sky130_fd_sc_hd__decap_8 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=2.89
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=2.89
.ends

.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=4.73
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=4.73
.ends

.subckt sky130_fd_sc_hd__decap_6 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=1.97
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=1.97
.ends

.subckt sky130_fd_sc_hd__decap_3 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=0.59
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=0.59
.ends

.subckt sky130_fd_sc_hd__dfrtp_2 VGND VPWR VPB VNB CLK D RESET_B Q
X0 a_805_47# a_761_289# a_639_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.1401 ps=1.1 w=0.42 l=0.15
X1 a_1217_47# a_27_47# a_1108_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0669 pd=0.75 as=0.0711 ps=0.755 w=0.36 l=0.15
X2 VGND a_1283_21# Q VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X3 a_1283_21# a_1108_47# a_1462_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.06405 ps=0.725 w=0.42 l=0.15
X4 a_651_413# a_27_47# a_543_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1155 pd=0.97 as=0.07245 ps=0.765 w=0.42 l=0.15
X5 VPWR a_1283_21# Q VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X6 a_1108_47# a_193_47# a_761_289# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0711 pd=0.755 as=0.0999 ps=0.985 w=0.36 l=0.15
X7 VGND RESET_B a_805_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1346 pd=1.15 as=0.0441 ps=0.63 w=0.42 l=0.15
X8 Q a_1283_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.3012 ps=2.66 w=1 l=0.15
X9 VPWR CLK a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.1664 ps=1.8 w=0.64 l=0.15
X10 a_448_47# D VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0651 pd=0.73 as=0.1092 ps=1.36 w=0.42 l=0.15
X11 a_761_289# a_543_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0999 pd=0.985 as=0.1346 ps=1.15 w=0.64 l=0.15
X12 a_193_47# a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X13 a_1108_47# a_27_47# a_761_289# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0588 pd=0.7 as=0.12915 ps=1.185 w=0.42 l=0.15
X14 a_1462_47# RESET_B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.06405 pd=0.725 as=0.12495 ps=1.015 w=0.42 l=0.15
X15 a_543_47# a_27_47# a_448_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0594 pd=0.69 as=0.066 ps=0.745 w=0.36 l=0.15
X16 a_543_47# a_193_47# a_448_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07245 pd=0.765 as=0.0651 ps=0.73 w=0.42 l=0.15
X17 a_448_47# D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.066 pd=0.745 as=0.2205 ps=1.89 w=0.42 l=0.15
X18 VPWR a_1283_21# a_1270_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0819 pd=0.81 as=0.0567 ps=0.69 w=0.42 l=0.15
X19 VPWR a_1108_47# a_1283_21# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1134 pd=1.38 as=0.0567 ps=0.69 w=0.42 l=0.15
X20 a_1270_413# a_193_47# a_1108_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0588 ps=0.7 w=0.42 l=0.15
X21 a_193_47# a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1664 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X22 a_1283_21# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0819 ps=0.81 w=0.42 l=0.15
X23 VPWR a_761_289# a_651_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07035 pd=0.755 as=0.1155 ps=0.97 w=0.42 l=0.15
X24 Q a_1283_21# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.2087 ps=2.02 w=0.65 l=0.15
X25 a_639_47# a_193_47# a_543_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.1401 pd=1.1 as=0.0594 ps=0.69 w=0.36 l=0.15
X26 VGND a_1283_21# a_1217_47# VNB sky130_fd_pr__nfet_01v8 ad=0.12495 pd=1.015 as=0.0669 ps=0.75 w=0.42 l=0.15
X27 a_651_413# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1092 pd=1.36 as=0.07035 ps=0.755 w=0.42 l=0.15
X28 VGND CLK a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X29 a_761_289# a_543_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.12915 pd=1.185 as=0.2184 ps=2.2 w=0.84 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_2 VPB VNB VPWR VGND Y A
X0 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__and2b_2 VNB VPB VPWR VGND A_N X B
X0 VPWR a_212_413# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X1 a_297_47# a_27_413# a_212_413# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X2 X a_212_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.22895 ps=1.745 w=1 l=0.15
X3 X a_212_413# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.101875 ps=0.99 w=0.65 l=0.15
X4 a_212_413# a_27_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0609 pd=0.71 as=0.07665 ps=0.785 w=0.42 l=0.15
X5 VPWR A_N a_27_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07665 pd=0.785 as=0.1092 ps=1.36 w=0.42 l=0.15
X6 VPWR B a_212_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.22895 pd=1.745 as=0.0609 ps=0.71 w=0.42 l=0.15
X7 VGND B a_297_47# VNB sky130_fd_pr__nfet_01v8 ad=0.101875 pd=0.99 as=0.0567 ps=0.69 w=0.42 l=0.15
X8 VGND a_212_413# X VNB sky130_fd_pr__nfet_01v8 ad=0.1755 pd=1.84 as=0.08775 ps=0.92 w=0.65 l=0.15
X9 a_27_413# A_N VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt phase_detector VGND VPWR clk_in clk_out down rst up
XFILLER_3_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_0_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_29 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XFILLER_1_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Right_1 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Left_6 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_1_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_9_ VGND VPWR VPWR VGND clk_in _0_ _3_ down sky130_fd_sc_hd__dfrtp_2
X_8_ VGND VPWR VPWR VGND clk_in _1_ _2_ up sky130_fd_sc_hd__dfrtp_2
XFILLER_4_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
X_7_ VPWR VGND VPWR VGND _3_ rst sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_0_Right_0 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_5_ VGND VPWR VPWR VGND clk_in _0_ clk_out sky130_fd_sc_hd__and2b_2
X_6_ VGND VPWR VPWR VGND clk_out _1_ clk_in sky130_fd_sc_hd__and2b_2
XPHY_EDGE_ROW_1_Left_7 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_4_ VPWR VGND VPWR VGND _2_ rst sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_4_Right_4 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_4_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_29 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XFILLER_2_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_2_Left_8 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Left_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_0_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_3_Right_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_29 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_3_Left_9 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Left_10 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_2_Right_2 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_5_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
.ends

