* NGSPICE file created from phase_detector.ext - technology: sky130A

.subckt sky130_fd_sc_hd__decap_8 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=2.89
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=2.89
.ends

.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=4.73
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=4.73
.ends

.subckt sky130_fd_sc_hd__decap_3 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=0.59
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=0.59
.ends

.subckt sky130_fd_sc_hd__buf_1 VGND VPWR X A VPB VNB
X0 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.11455 pd=1.08 as=0.2054 ps=2.1 w=0.79 l=0.15
X1 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1352 pd=1.56 as=0.0754 ps=0.81 w=0.52 l=0.15
X2 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2054 pd=2.1 as=0.11455 ps=1.08 w=0.79 l=0.15
X3 VGND A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0754 pd=0.81 as=0.1352 ps=1.56 w=0.52 l=0.15
.ends

.subckt sky130_fd_sc_hd__dfrtp_1 VGND VPWR VPB VNB CLK D RESET_B Q
X0 a_805_47# a_761_289# a_639_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.1401 ps=1.1 w=0.42 l=0.15
X1 a_1217_47# a_27_47# a_1108_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0669 pd=0.75 as=0.0711 ps=0.755 w=0.36 l=0.15
X2 a_1283_21# a_1108_47# a_1462_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.06405 ps=0.725 w=0.42 l=0.15
X3 a_651_413# a_27_47# a_543_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1155 pd=0.97 as=0.07245 ps=0.765 w=0.42 l=0.15
X4 a_1108_47# a_193_47# a_761_289# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0711 pd=0.755 as=0.0999 ps=0.985 w=0.36 l=0.15
X5 VGND RESET_B a_805_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1346 pd=1.15 as=0.0441 ps=0.63 w=0.42 l=0.15
X6 Q a_1283_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.3012 ps=2.66 w=1 l=0.15
X7 VPWR CLK a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0864 pd=0.91 as=0.1664 ps=1.8 w=0.64 l=0.15
X8 a_448_47# D VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0651 pd=0.73 as=0.1092 ps=1.36 w=0.42 l=0.15
X9 a_761_289# a_543_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0999 pd=0.985 as=0.1346 ps=1.15 w=0.64 l=0.15
X10 a_193_47# a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X11 a_1108_47# a_27_47# a_761_289# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0588 pd=0.7 as=0.12915 ps=1.185 w=0.42 l=0.15
X12 a_1462_47# RESET_B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.06405 pd=0.725 as=0.12495 ps=1.015 w=0.42 l=0.15
X13 a_543_47# a_27_47# a_448_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.0594 pd=0.69 as=0.066 ps=0.745 w=0.36 l=0.15
X14 a_543_47# a_193_47# a_448_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07245 pd=0.765 as=0.0651 ps=0.73 w=0.42 l=0.15
X15 a_448_47# D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.066 pd=0.745 as=0.2205 ps=1.89 w=0.42 l=0.15
X16 VPWR a_1283_21# a_1270_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0819 pd=0.81 as=0.0567 ps=0.69 w=0.42 l=0.15
X17 VPWR a_1108_47# a_1283_21# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1134 pd=1.38 as=0.0567 ps=0.69 w=0.42 l=0.15
X18 a_1270_413# a_193_47# a_1108_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0588 ps=0.7 w=0.42 l=0.15
X19 a_193_47# a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1664 pd=1.8 as=0.0864 ps=0.91 w=0.64 l=0.15
X20 a_1283_21# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0819 ps=0.81 w=0.42 l=0.15
X21 VPWR a_761_289# a_651_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07035 pd=0.755 as=0.1155 ps=0.97 w=0.42 l=0.15
X22 Q a_1283_21# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.2087 ps=2.02 w=0.65 l=0.15
X23 a_639_47# a_193_47# a_543_47# VNB sky130_fd_pr__special_nfet_01v8 ad=0.1401 pd=1.1 as=0.0594 ps=0.69 w=0.36 l=0.15
X24 VGND a_1283_21# a_1217_47# VNB sky130_fd_pr__nfet_01v8 ad=0.12495 pd=1.015 as=0.0669 ps=0.75 w=0.42 l=0.15
X25 a_651_413# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1092 pd=1.36 as=0.07035 ps=0.755 w=0.42 l=0.15
X26 VGND CLK a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X27 a_761_289# a_543_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.12915 pd=1.185 as=0.2184 ps=2.2 w=0.84 l=0.15
.ends

.subckt sky130_fd_sc_hd__clkbuf_1 VGND VPWR X A VPB VNB
X0 VPWR a_75_212# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.11455 pd=1.08 as=0.2054 ps=2.1 w=0.79 l=0.15
X1 a_75_212# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1352 pd=1.56 as=0.0754 ps=0.81 w=0.52 l=0.15
X2 a_75_212# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2054 pd=2.1 as=0.11455 ps=1.08 w=0.79 l=0.15
X3 VGND a_75_212# X VNB sky130_fd_pr__nfet_01v8 ad=0.0754 pd=0.81 as=0.1352 ps=1.56 w=0.52 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_2 VPB VNB VPWR VGND Y A
X0 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__and2b_1 X A_N B VGND VPWR VPB VNB
X0 VPWR B a_207_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2279 pd=1.74 as=0.0609 ps=0.71 w=0.42 l=0.15
X1 X a_207_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.2279 ps=1.74 w=1 l=0.15
X2 a_297_47# a_27_413# a_207_413# VNB sky130_fd_pr__nfet_01v8 ad=0.0504 pd=0.66 as=0.1092 ps=1.36 w=0.42 l=0.15
X3 X a_207_413# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.1013 ps=0.99 w=0.65 l=0.15
X4 a_207_413# a_27_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0609 pd=0.71 as=0.0714 ps=0.76 w=0.42 l=0.15
X5 VPWR A_N a_27_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0714 pd=0.76 as=0.1092 ps=1.36 w=0.42 l=0.15
X6 VGND B a_297_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1013 pd=0.99 as=0.0504 ps=0.66 w=0.42 l=0.15
X7 a_27_413# A_N VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__decap_6 VPWR VGND VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0 ps=0 w=0.87 l=1.97
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0 ps=0 w=0.55 l=1.97
.ends

.subckt sky130_fd_sc_hd__buf_2 VPWR VGND X A VPB VNB
X0 VPWR a_27_47# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.265 pd=2.53 as=0.135 ps=1.27 w=1 l=0.15
X1 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.149 ps=1.325 w=1 l=0.15
X2 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.149 pd=1.325 as=0.1664 ps=1.8 w=0.64 l=0.15
X3 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.097 ps=0.975 w=0.65 l=0.15
X4 VGND a_27_47# X VNB sky130_fd_pr__nfet_01v8 ad=0.17225 pd=1.83 as=0.08775 ps=0.92 w=0.65 l=0.15
X5 VGND A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.097 pd=0.975 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt phase_detector VGND VPWR clk_in clk_out down rst up
XFILLER_3_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_0_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Right_1 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_0_Left_6 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_1_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xinput1 VGND VPWR net1 clk_in VPWR VGND sky130_fd_sc_hd__buf_1
X_9_ VGND VPWR VPWR VGND net1 _0_ _3_ net4 sky130_fd_sc_hd__dfrtp_1
Xinput2 VGND VPWR net2 clk_out VPWR VGND sky130_fd_sc_hd__clkbuf_1
X_8_ VGND VPWR VPWR VGND net1 _1_ _2_ net5 sky130_fd_sc_hd__dfrtp_1
Xinput3 VGND VPWR net3 rst VPWR VGND sky130_fd_sc_hd__buf_1
X_7_ VPWR VGND VPWR VGND _3_ net3 sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_0_Right_0 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_5_ _0_ net1 net2 VGND VPWR VPWR VGND sky130_fd_sc_hd__and2b_1
X_6_ _1_ net2 net1 VGND VPWR VPWR VGND sky130_fd_sc_hd__and2b_1
XPHY_EDGE_ROW_1_Left_7 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
X_4_ VPWR VGND VPWR VGND _2_ net3 sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_4_Right_4 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_4_18 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_8
XFILLER_4_6 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_2_Left_8 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Left_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_2_6 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XFILLER_0_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_3_Right_3 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_29 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_3_Left_9 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Left_10 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_2_Right_2 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
Xoutput4 VPWR VGND down net4 VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_5_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput5 VPWR VGND up net5 VPWR VGND sky130_fd_sc_hd__buf_2
XFILLER_3_11 VPWR VGND VPWR VGND sky130_fd_sc_hd__decap_3
.ends

